** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc_tb/sarlogic_tb.sch
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt sarlogic_tb
Vclks clks 0 PULSE(0 1.8 0 100p 100p 14.9n 100n)
Vclkc valid 0 PULSE(0 1.8 15n 100p 100p 4.78n 10.625n)
Vcomp_out data 0 PULSE(0 1.8 15n 100p 100p 10.625n 21.25n
Vvdd dvdd 0 DC 1.8
x1 dvdd 0 D7 D6 D5 D4 D3 D2 D1 D0 valid clks data sarlogic
**** begin user architecture code


.control
 tran 10p 100ns
 save all
 remzerovec
 write sarlogic_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  sarlogic.sym # of pins=6
** sym_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/sarlogic.sym
** sch_path: /foss/designs/ttsky26c-saradc/xschem/sar-adc/sarlogic.sch
.subckt sarlogic dvdd dvss D7 D6 D5 D4 D3 D2 D1 D0 valid clks comp_out
*.ipin valid
*.ipin clks
*.ipin comp_out
*.opin D7,D6,D5,D4,D3,D2,D1,D0
*.iopin dvdd
*.iopin dvss
x1 valid dvdd net1 dvss dvss dvdd dvdd clk1 sky130_fd_sc_hd__dfrtp_1
x2 valid clk1 net1 dvss dvss dvdd dvdd clk2 sky130_fd_sc_hd__dfrtp_1
x3 valid clk2 net1 dvss dvss dvdd dvdd clk3 sky130_fd_sc_hd__dfrtp_1
x4 valid clk3 net1 dvss dvss dvdd dvdd clk4 sky130_fd_sc_hd__dfrtp_1
x5 valid clk4 net1 dvss dvss dvdd dvdd clk5 sky130_fd_sc_hd__dfrtp_1
x6 valid clk5 net1 dvss dvss dvdd dvdd clk6 sky130_fd_sc_hd__dfrtp_1
x7 valid clk6 net1 dvss dvss dvdd dvdd clk7 sky130_fd_sc_hd__dfrtp_1
x8 valid clk7 net1 dvss dvss dvdd dvdd clk8 sky130_fd_sc_hd__dfrtp_1
x17 clks dvss dvss dvdd dvdd net1 sky130_fd_sc_hd__inv_2
x9 clk1 comp_out net1 dvss dvss dvdd dvdd D7 sky130_fd_sc_hd__dfstp_1
x10 clk2 comp_out net1 dvss dvss dvdd dvdd D6 sky130_fd_sc_hd__dfstp_1
x11 clk3 comp_out net1 dvss dvss dvdd dvdd D5 sky130_fd_sc_hd__dfstp_1
x12 clk4 comp_out net1 dvss dvss dvdd dvdd D4 sky130_fd_sc_hd__dfstp_1
x13 clk5 comp_out net1 dvss dvss dvdd dvdd D3 sky130_fd_sc_hd__dfstp_1
x14 clk6 comp_out net1 dvss dvss dvdd dvdd D2 sky130_fd_sc_hd__dfstp_1
x15 clk7 comp_out net1 dvss dvss dvdd dvdd D1 sky130_fd_sc_hd__dfstp_1
x16 clk8 comp_out net1 dvss dvss dvdd dvdd D0 sky130_fd_sc_hd__dfstp_1
.ends

.end
